US04159984
To a solution of 32.6 g of benzyl α-(3ξ-carbomethoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 750 ml of tetrahydrofuran is dropwise added a solution of 9.5 ml of pyridine and 15.1 ml of phenylacetyl chloride in 144 ml of tetrahydrofuran over a period of 15 minutes while maintaining the temperature at -20° C. and stirring under nitrogen atmosphere. The mixture is stirred for 55 minutes, poured into 700 ml of ice water, stirred for 5 minutes and extracted with ethyl acetate. The extract is washed with an aqueous solution of sodium hydrogencarbonate and water, dried on sodium sulfate, and evaporated under reduced pressure to yield 46.4 g of benzyl α-(3ξ-carbomethoxy-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate as crude product in 107% yield.

reactant | benzyl α-(3ξ-carbomethoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 32.6 g | C(=O)(OC)C1NC2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O | C18H20N2O6
reactant | pyridine | 9.5 ml | N1=CC=CC=C1 | C5H5N
reactant | phenylacetyl chloride | 15.1 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 144 ml | O1CCCC1 | C4H8O
product | benzyl α-(3ξ-carbomethoxy-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 46.4 g, 107% yield | C(=O)(OC)C1NC2(C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)C(CC1=CC=CC=C1)=O | C26H26N2O7
